US04666902
2,3,4,5-Tetrahydro-5-hydroxymethyl-6-(4-(2-(1-imidazolyl)-ethoxy)-phenyl)-pyridazin-3-one
5.2 g (0.017 mol) of 4-(4-(2-(1-imidazolyl)-ethoxy)phenyl)-carbonyl-γ-butyrolactone and 1 ml (0.02 mol) of hydrazine hydrate are stirred in 30 ml of ethanol at room temperature for 1 hour and then at 60° C. for 16 hours. After the mixture has been cooled, 15 ml of ether are added and the precipitated product is filtered off with suction, washed with either and dried.

reactant | 4-(4-(2-(1-imidazolyl)-ethoxy)phenyl)-carbonyl-γ-butyrolactone | 0.017 mol, 5.2 g | N1(C=NC=C1)CCOC1=CC=C(C=C1)C1CC(C(=O)O1)=C=O | C16H14N2O4
reactant | hydrazine hydrate | 0.02 mol, 1 ml | O.NN
reactant | ether | 15 ml | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2,3,4,5-Tetrahydro-5-hydroxymethyl-6-(4-(2-(1-imidazolyl)-ethoxy)-phenyl)-pyridazin-3-one | OCC1CC(NN=C1C1=CC=C(C=C1)OCCN1C=NC=C1)=O | C16H18N4O3
